US06169107A
The reaction was carried out in a manner similar to Reference Example 18 a) except for using 8.00 g (22.0 mmol) of ethyl 7-benzyloxy-4-trifluoromethyl-2-indolecarboxylate, 0.88 g (22.0 mmol) of 60% sodium hydride, 6.25 g (44.0 mmol) of methyl iodide and 150 ml of dimethylformamide. Ethyl 7-benzyloxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate was thus obtained in the yield of 7.40 g (89.1%).

reactant | ethyl 7-benzyloxy-4-trifluoromethyl-2-indolecarboxylate | 22.0 mmol, 8.00 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)OCC)C(F)(F)F | C19H16F3NO3
reactant | sodium hydride | 22.0 mmol, 0.88 g | [H-].[Na+]
reactant | methyl iodide | 44.0 mmol, 6.25 g | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Ethyl 7-benzyloxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C20H18F3NO3
